US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (537 mg, 3.31 mmole) in 7 mL of dry acetonitrile is 0.7 mL (6.62 mmol) of tert-butylamine followed by 457 mg (3.31 mmol) of potassium carbonate. The reaction is heated at 80° C. for 12 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 387 mg (59% yield) of tert-Butyl-(6-chloro-pyridin-3-ylmethyl)-amine. Diagnostic 1H NMR (400 MHz, CDCl3) 1.16 (s, 9H), 1.60–1.80 (brs, 1H0, 3.72 (s, 2H), 7.26 (d, 1H, J=8.3 Hz), 7.71 (dd, 1H, J=8.3 and 2.5 Hz), 8.33 (d, 1H, J=2.0 Hz); MS 199.2 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 3.31 mmole, 537 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | tert-butylamine | 6.62 mmol, 0.7 mL | C(C)(C)(C)N | C4H11N
reactant | potassium carbonate | 3.31 mmol, 457 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | tert-Butyl-(6-chloro-pyridin-3-ylmethyl)-amine | 387 mg, 59% yield | C(C)(C)(C)NCC=1C=NC(=CC1)Cl | C10H15ClN2
